* extracted by klt extract --deck gf180mcu

* cell temp_core
* pin CTAT
* pin EN
* pin ENB
* pin IBIAS
* pin M1D
* pin M2D
* pin M3D
* pin N1
* pin N2
* pin NA
* pin NB
* pin NBG
* pin NC
* pin ND
* pin NR
* pin NT
* pin NZ
* pin PB
* pin PCAS
* pin PG
* pin PTAT
* pin T0
* pin T1
* pin T2
* pin T3
* pin T4
* pin T5
* pin VDD
* pin VSS
* pin vsubs
.SUBCKT temp_core CTAT EN ENB IBIAS M1D M2D M3D N1 N2 NA NB NBG NC ND NR NT NZ
+ PB PCAS PG PTAT T0 T1 T2 T3 T4 T5 VDD VSS vsubs
* device instance $1 r0 *1 49.5,-2 nfet
M$1 VSS VSS VSS vsubs nfet L=8U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $2 r0 *1 59.6,-2 nfet
M$2 N1 N1 VSS vsubs nfet L=8U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $3 r0 *1 69.7,-2 nfet
M$3 N2 N1 VSS vsubs nfet L=8U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $4 r0 *1 79.8,-2 nfet
M$4 N2 N1 VSS vsubs nfet L=8U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $5 r0 *1 89.9,-2 nfet
M$5 N1 N1 VSS vsubs nfet L=8U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $6 r0 *1 100,-2 nfet
M$6 VSS VSS VSS vsubs nfet L=8U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $7 r0 *1 177.5,-4 nfet
M$7 PG N2 VSS vsubs nfet L=8U W=8U AS=6.4P AD=6.4P PS=17.6U PD=17.6U
* device instance $8 r0 *1 190.7,-2 nfet
M$8 IBIAS NBG VSS vsubs nfet L=2U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $9 r0 *1 194.05,-1 nfet
M$9 IBIAS EN NBG vsubs nfet L=0.5U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $10 r0 *1 196.65,-1 nfet
M$10 NBG ENB VSS vsubs nfet L=0.5U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $11 r0 *1 200,-2 nfet
M$11 PB NBG VSS vsubs nfet L=2U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $12 r0 *1 210.2,-2 nfet
M$12 PCAS NBG VSS vsubs nfet L=2U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $13 r0 *1 226.25,-0.5 nfet
M$13 ENB EN VSS vsubs nfet L=0.5U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $14 r0 *1 239.7,-1 nfet
M$14 ND NR VSS vsubs nfet L=2U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $15 r0 *1 243.3,-2 nfet
M$15 PG ND VSS vsubs nfet L=1U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $16 r0 *1 253,-1 nfet
M$16 NR NR VSS vsubs nfet L=2U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $17 r0 *1 256.35,-1 nfet
M$17 ND ENB VSS vsubs nfet L=0.5U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $18 r0 *1 261.8,-0.5 nfet
M$18 PTAT ENB VSS vsubs nfet L=1U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $19 r0 *1 264.9,-0.5 nfet
M$19 CTAT ENB VSS vsubs nfet L=1U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $20 r0 *1 268,-1 nfet
M$20 N2 ENB VSS vsubs nfet L=1U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $21 r0 *1 271.1,-1 nfet
M$21 NT ENB VSS vsubs nfet L=1U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $22 r0 *1 273.95,-16 nfet
M$22 T5 VDD T4 vsubs nfet L=0.5U W=32U AS=25.6P AD=25.6P PS=65.6U PD=65.6U
* device instance $23 r0 *1 276.55,-16 nfet
M$23 T3 VSS T2 vsubs nfet L=0.5U W=32U AS=25.6P AD=25.6P PS=65.6U PD=65.6U
* device instance $24 r0 *1 279.15,-16 nfet
M$24 T1 VSS T0 vsubs nfet L=0.5U W=32U AS=25.6P AD=25.6P PS=65.6U PD=65.6U
* device instance $25 r0 *1 281.75,-16 nfet
M$25 T0 VSS VSS vsubs nfet L=0.5U W=32U AS=25.6P AD=25.6P PS=65.6U PD=65.6U
* device instance $26 r0 *1 284.35,-16 nfet
M$26 T2 VSS T1 vsubs nfet L=0.5U W=32U AS=25.6P AD=25.6P PS=65.6U PD=65.6U
* device instance $27 r0 *1 286.95,-16 nfet
M$27 T4 VSS T3 vsubs nfet L=0.5U W=32U AS=25.6P AD=25.6P PS=65.6U PD=65.6U
* device instance $28 r0 *1 2.8,42 pfet
M$28 NT NT NT \$28 pfet L=4U W=16U AS=12.8P AD=12.8P PS=33.6U PD=33.6U
* device instance $29 r0 *1 8.9,42 pfet
M$29 N1 NA NT \$28 pfet L=4U W=16U AS=12.8P AD=12.8P PS=33.6U PD=33.6U
* device instance $30 r0 *1 15,42 pfet
M$30 N2 NB NT \$28 pfet L=4U W=16U AS=12.8P AD=12.8P PS=33.6U PD=33.6U
* device instance $31 r0 *1 21.1,42 pfet
M$31 N2 NB NT \$28 pfet L=4U W=16U AS=12.8P AD=12.8P PS=33.6U PD=33.6U
* device instance $32 r0 *1 27.2,42 pfet
M$32 N1 NA NT \$28 pfet L=4U W=16U AS=12.8P AD=12.8P PS=33.6U PD=33.6U
* device instance $33 r0 *1 33.3,42 pfet
M$33 NT NT NT \$28 pfet L=4U W=16U AS=12.8P AD=12.8P PS=33.6U PD=33.6U
* device instance $34 r0 *1 41.4,44 pfet
M$34 NT PB VDD \$29 pfet L=4U W=20U AS=16P AD=16P PS=41.6U PD=41.6U
* device instance $35 r0 *1 108.1,36 pfet
M$35 VDD VDD VDD \$29 pfet L=4U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $36 r0 *1 114.2,36 pfet
M$36 M1D PG VDD \$29 pfet L=4U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $37 r0 *1 118.8,36 pfet
M$37 NA PCAS M1D \$29 pfet L=1U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $38 r0 *1 123.4,36 pfet
M$38 M2D PG VDD \$29 pfet L=4U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $39 r0 *1 128,36 pfet
M$39 NB PCAS M2D \$29 pfet L=1U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $40 r0 *1 132.6,36 pfet
M$40 M3D PG VDD \$29 pfet L=4U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $41 r0 *1 137.2,36 pfet
M$41 PTAT PCAS M3D \$29 pfet L=1U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $42 r0 *1 140.3,36 pfet
M$42 PTAT PCAS M3D \$29 pfet L=1U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $43 r0 *1 144.9,36 pfet
M$43 M3D PG VDD \$29 pfet L=4U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $44 r0 *1 149.5,36 pfet
M$44 NB PCAS M2D \$29 pfet L=1U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $45 r0 *1 154.1,36 pfet
M$45 M2D PG VDD \$29 pfet L=4U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $46 r0 *1 158.7,36 pfet
M$46 NA PCAS M1D \$29 pfet L=1U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $47 r0 *1 163.3,36 pfet
M$47 M1D PG VDD \$29 pfet L=4U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $48 r0 *1 169.4,36 pfet
M$48 VDD VDD VDD \$29 pfet L=4U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $49 r0 *1 185.6,39 pfet
M$49 PG PB VDD \$29 pfet L=4U W=10U AS=8P AD=8P PS=21.6U PD=21.6U
* device instance $50 r0 *1 205.1,39 pfet
M$50 PB PB VDD \$29 pfet L=4U W=10U AS=8P AD=8P PS=21.6U PD=21.6U
* device instance $51 r0 *1 217.3,34.5 pfet
M$51 PCAS PCAS VDD \$29 pfet L=8U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $52 r0 *1 223.65,35 pfet
M$52 ENB EN VDD \$29 pfet L=0.5U W=2U AS=1.6P AD=1.6P PS=5.6U PD=5.6U
* device instance $53 r0 *1 232.6,34.5 pfet
M$53 ND PB VDD \$29 pfet L=8U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $54 r0 *1 247.9,34.5 pfet
M$54 NR PG VDD \$29 pfet L=4U W=1U AS=0.8P AD=0.8P PS=3.6U PD=3.6U
* device instance $55 r0 *1 258.95,36 pfet
M$55 PG EN VDD \$29 pfet L=0.5U W=4U AS=3.2P AD=3.2P PS=9.6U PD=9.6U
* device instance $56 r0 *1 505,81 bjt
Q$56 vsubs \$53 NC bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $57 r0 *1 519,81 bjt
Q$57 vsubs \$53 NC bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $58 r0 *1 533,81 bjt
Q$58 vsubs \$53 NC bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $59 r0 *1 505,95 bjt
Q$59 vsubs \$53 NC bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $60 r0 *1 519,95 bjt
Q$60 vsubs \$53 NA bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $61 r0 *1 533,95 bjt
Q$61 vsubs \$53 NC bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $62 r0 *1 505,109 bjt
Q$62 vsubs \$53 NC bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $63 r0 *1 519,109 bjt
Q$63 vsubs \$53 NC bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $64 r0 *1 533,109 bjt
Q$64 vsubs \$53 NC bjt AE=100P PE=40U AB=144P PB=48U AC=144P PC=48U NE=1
* device instance $65 r0 *1 206.7,68.7 cap_mim_2f0_m4m5_noshield
C$65 PG NZ 2.88e-13 cap_mim_2f0_m4m5_noshield
* device instance $66 r0 *1 307,92.867 ppolyf_u
R$66 NB \$70 vsubs 10453.625 ppolyf_u
* device instance $67 r0 *1 310,92.867 ppolyf_u
R$67 NC \$70 vsubs 10453.625 ppolyf_u
* device instance $68 r0 *1 313,90.762 ppolyf_u
R$68 NA \$68 vsubs 9716.875 ppolyf_u
* device instance $69 r0 *1 316,90.762 ppolyf_u
R$69 CTAT \$68 vsubs 9716.875 ppolyf_u
* device instance $70 r0 *1 319,113 ppolyf_u
R$70 NZ \$71 vsubs 17500 ppolyf_u
* device instance $71 r0 *1 322,113 ppolyf_u
R$71 \$30 \$71 vsubs 17500 ppolyf_u
* device instance $72 r0 *1 325,113 ppolyf_u
R$72 \$30 \$72 vsubs 17500 ppolyf_u
* device instance $73 r0 *1 328,113 ppolyf_u
R$73 \$31 \$72 vsubs 17500 ppolyf_u
* device instance $74 r0 *1 331,113 ppolyf_u
R$74 \$31 \$73 vsubs 17500 ppolyf_u
* device instance $75 r0 *1 334,113 ppolyf_u
R$75 \$32 \$73 vsubs 17500 ppolyf_u
* device instance $76 r0 *1 337,113 ppolyf_u
R$76 \$32 \$74 vsubs 17500 ppolyf_u
* device instance $77 r0 *1 340,113 ppolyf_u
R$77 \$33 \$74 vsubs 17500 ppolyf_u
* device instance $78 r0 *1 343,113 ppolyf_u
R$78 \$33 \$75 vsubs 17500 ppolyf_u
* device instance $79 r0 *1 346,113 ppolyf_u
R$79 N2 \$75 vsubs 17500 ppolyf_u
* device instance $80 r0 *1 349,118.262 ppolyf_u
R$80 PTAT \$76 vsubs 19341.875 ppolyf_u
* device instance $81 r0 *1 352,118.262 ppolyf_u
R$81 \$34 \$76 vsubs 19341.875 ppolyf_u
* device instance $82 r0 *1 355,118.262 ppolyf_u
R$82 \$34 \$77 vsubs 19341.875 ppolyf_u
* device instance $83 r0 *1 358,118.262 ppolyf_u
R$83 \$35 \$77 vsubs 19341.875 ppolyf_u
* device instance $84 r0 *1 361,118.262 ppolyf_u
R$84 \$35 \$78 vsubs 19341.875 ppolyf_u
* device instance $85 r0 *1 364,118.262 ppolyf_u
R$85 \$36 \$78 vsubs 19341.875 ppolyf_u
* device instance $86 r0 *1 367,118.262 ppolyf_u
R$86 \$36 \$79 vsubs 19341.875 ppolyf_u
* device instance $87 r0 *1 370,118.262 ppolyf_u
R$87 \$37 \$79 vsubs 19341.875 ppolyf_u
* device instance $88 r0 *1 373,118.262 ppolyf_u
R$88 \$37 \$80 vsubs 19341.875 ppolyf_u
* device instance $89 r0 *1 376,118.262 ppolyf_u
R$89 \$38 \$80 vsubs 19341.875 ppolyf_u
* device instance $90 r0 *1 379,118.262 ppolyf_u
R$90 \$38 \$81 vsubs 19341.875 ppolyf_u
* device instance $91 r0 *1 382,118.262 ppolyf_u
R$91 \$39 \$81 vsubs 19341.875 ppolyf_u
* device instance $92 r0 *1 385,118.262 ppolyf_u
R$92 \$39 \$82 vsubs 19341.875 ppolyf_u
* device instance $93 r0 *1 388,118.262 ppolyf_u
R$93 \$40 \$82 vsubs 19341.875 ppolyf_u
* device instance $94 r0 *1 391,118.262 ppolyf_u
R$94 \$40 \$83 vsubs 19341.875 ppolyf_u
* device instance $95 r0 *1 394,118.262 ppolyf_u
R$95 \$41 \$83 vsubs 19341.875 ppolyf_u
* device instance $96 r0 *1 397,118.262 ppolyf_u
R$96 \$41 \$84 vsubs 19341.875 ppolyf_u
* device instance $97 r0 *1 400,118.262 ppolyf_u
R$97 \$42 \$84 vsubs 19341.875 ppolyf_u
* device instance $98 r0 *1 403,118.262 ppolyf_u
R$98 \$42 \$85 vsubs 19341.875 ppolyf_u
* device instance $99 r0 *1 406,118.262 ppolyf_u
R$99 \$43 \$85 vsubs 19341.875 ppolyf_u
* device instance $100 r0 *1 409,118.262 ppolyf_u
R$100 \$43 \$86 vsubs 19341.875 ppolyf_u
* device instance $101 r0 *1 412,118.262 ppolyf_u
R$101 \$44 \$86 vsubs 19341.875 ppolyf_u
* device instance $102 r0 *1 415,118.262 ppolyf_u
R$102 \$44 \$87 vsubs 19341.875 ppolyf_u
* device instance $103 r0 *1 418,118.262 ppolyf_u
R$103 T5 \$87 vsubs 19341.875 ppolyf_u
* device instance $104 r0 *1 421,120.427 ppolyf_u
R$104 T5 \$88 vsubs 20099.625 ppolyf_u
* device instance $105 r0 *1 424,120.427 ppolyf_u
R$105 T4 \$88 vsubs 20099.625 ppolyf_u
* device instance $106 r0 *1 427,91.672 ppolyf_u
R$106 T4 \$69 vsubs 10035.375 ppolyf_u
* device instance $107 r0 *1 430,91.672 ppolyf_u
R$107 T3 \$69 vsubs 10035.375 ppolyf_u
* device instance $108 r0 *1 433,77.295 ppolyf_u
R$108 T3 \$60 vsubs 5003.25 ppolyf_u
* device instance $109 r0 *1 436,77.295 ppolyf_u
R$109 T2 \$60 vsubs 5003.25 ppolyf_u
* device instance $110 r0 *1 439,70.105 ppolyf_u
R$110 T2 \$56 vsubs 2486.75 ppolyf_u
* device instance $111 r0 *1 442,70.105 ppolyf_u
R$111 T1 \$56 vsubs 2486.75 ppolyf_u
* device instance $112 r0 *1 445,66.507 ppolyf_u
R$112 T1 \$51 vsubs 1227.625 ppolyf_u
* device instance $113 r0 *1 448,66.507 ppolyf_u
R$113 T0 \$51 vsubs 1227.625 ppolyf_u
* device instance $114 r0 *1 451,64.712 ppolyf_u
R$114 T0 \$50 vsubs 599.375 ppolyf_u
* device instance $115 r0 *1 454,64.712 ppolyf_u
R$115 VSS \$50 vsubs 599.375 ppolyf_u
.ENDS temp_core
